### PR TITLE
The first isomorphism theorem

### PR DESCRIPTION
**Pull request by andreaslyn**

### CODE REVIEW

File: theories/HSet.v [hunk 1]
```diff
@@ -120,8 +120,7 @@ Proof.
   exact (ap pr1 q).
 Defined.
 
-Lemma isembedding_isinj_hset {A B : Type} `{IsHSet A} `{IsHSet B}
```
Comment (andreaslyn) [inline theories/HSet.v]: Unused assumption `{IsHSet A}`.

**Comment by Alizter** [comment]
@JasonGross For some reason dep graphs is causing travis to fail here.

**Comment by JasonGross** [comment]
This is probably because we are building the depgraphs job with master and the current version of dpdgraphs is incompatible with master.

If in `.travis.yml` you change
```
   - UPDATE_DEP_GRAPHS="yes" WITH_AUTORECONF="yes"
```
to
```
   - UPDATE_DEP_GRAPHS="yes" WITH_AUTORECONF="yes" BUILD_COQ="yes"
```
does that fix things?

**Comment by Alizter** [comment]
@andreaslyn I've sent a PR to your branch updating `.travis.yml` like Jason said.
